US20010044445A1
3-(3-furyl)-1-(4-nitrophenyl)-1H-pyrazol-5-ol
Ethyl β-oxo-3-furanpropionate (2 g, 10.9 mmol) in ethanol (100 mL) was added p-nitrophenylhydrazine (1.77 g, 11.6 mmol) and 4M HCl in dioxane. The mixture was heated to reflux for 3 hours. Upon cooling to room temperatur, the solvent was removed and the crude product was used in the next step without further purification.

reactant | Ethyl β-oxo-3-furanpropionate | 10.9 mmol, 2 g | O=C(CC(=O)OCC)C1=COC=C1 | C9H10O4
reactant | p-nitrophenylhydrazine | 11.6 mmol, 1.77 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
reactant | HCl | 4M | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(3-furyl)-1-(4-nitrophenyl)-1H-pyrazol-5-ol | O1C=C(C=C1)C1=NN(C(=C1)O)C1=CC=C(C=C1)[N+](=O)[O-] | C13H9N3O4
